US08084456B2
1-(3Fluorophenyl)butan-1-one
To a solution of 3-fluoro-N-methoxy-N-methylbenzamide (130 mg, 0.71 mmol) in dry THF (2 mL) cooled to −10° C. was added propyl magnesium chloride (532 μl, 2M solution in ether, 1.1 mmol) under nitrogen. The solution was stirred at −10° C. for 1 h and at room temperature for 75 min. The solution was the poured into saturated aqueous ammonium chloride and the product extracted into ethyl acetate (3×25 mL). The organic layers were combined, washed with brine, dried (MgSO4) and concentrated to give a pale yellow oil, which was purified by chromatography using ethyl acetate-hexane (1:9) to separate the pure product (78 mg, 66%).

reactant | 3-fluoro-N-methoxy-N-methylbenzamide | 0.71 mmol, 130 mg | FC=1C=C(C(=O)N(C)OC)C=CC1 | C9H10FNO2
reactant | propyl magnesium chloride | 1.1 mmol, 2M, 532 μl | C(CC)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(3Fluorophenyl)butan-1-one | FC=1C=C(C=CC1)C(CCC)=O | C10H11FO
